US09334263B2
A mixture of tert-butyl 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylate (684 mg, 2.0 mmol), 2-fluorophenol (1.1 g, 10.0 mmol), copper (650 mg, 10.0 mmol) and cesium carbonate (6.5 g, 20.0 mmol) in pyridine (15 mL) was heated at 120 0° C. in a sealed tube overnight. The reaction mixture was diluted with ethyl acetate (200 mL) and then filtered. The filtrate was concentrated, and the residue was purified by silica gel chromatography (petroleum ether:ethyl acetate 20:1) to give tert-butyl 4-(5-(2-fluorophenoxyl)pyrimidin-2-yl)piperazine-1-carboxylate (50 mg, 6%) as a yellow solid. MS (ES+) C19H23FN4O3 requires: 374, found: 397 [M+Na]+.

reactant | tert-butyl 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylate | 2.0 mmol, 684 mg | BrC=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H19BrN4O2
reactant | 2-fluorophenol | 10.0 mmol, 1.1 g | FC1=C(C=CC=C1)O | C6H5FO
reactant | cesium carbonate | 20.0 mmol, 6.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper | 10.0 mmol, 650 mg | [Cu] | Cu
product | tert-butyl 4-(5-(2-fluorophenoxyl)pyrimidin-2-yl)piperazine-1-carboxylate | 50 mg, 6% | FC1=C(OC=2C=NC(=NC2)N2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1 | C19H23FN4O3
